US04432979
A solution of sodium methoxide (1.85 g) in 100 ml DMF and 30 ml MeOH is added to a stirred suspension of 3-bromo-5-(4-pyrimidinyl)-2(1H)-pyridone in 100 ml DMF. Benzyl chloride (3.9 ml) is added to the reaction mixture, and the mixture is heated to 70° C. for 2 hours and allowed to cool to RT overnight. The reaction mixture is filtered and the solvent evaporated in vacuo. The residue is suspended in H2O, filtered and dried. The resultant solid is dissolved in hot isopropanol, filtered through charcoal and recrystallized, yielding 1-benzyl-3-bromo-5-(4-pyrimidinyl)-2-pyridone, M.P. 189°-191.5° C.

reactant | sodium methoxide | 1.85 g | C[O-].[Na+]
reactant | 3-bromo-5-(4-pyrimidinyl)-2(1H)-pyridone | BrC=1C(NC=C(C1)C1=NC=NC=C1)=O | C9H6BrN3O
reactant | Benzyl chloride | 3.9 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 30 ml | CO | CH4O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-3-bromo-5-(4-pyrimidinyl)-2-pyridone | C(C1=CC=CC=C1)N1C(C(=CC(=C1)C1=NC=NC=C1)Br)=O | C16H12BrN3O
